* NDS0610 ELECTRICAL MODEL (SOT-23 Single P-Ch DMOS)
* ------------------------
.SUBCKT  NDS0610  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS PMOS (VTO={-1.9*{-0.0012*TEMP+1.03}}  KP={-0.0006*TEMP+0.315}
+ THETA=0.086  VMAX=3.8E5  LEVEL=3)
Cgs     1    3    40p
Rd     20    4    1.4 TC=0.0064
Dds     4    3    DDS
.MODEL     DDS    D(BV={60*{0.00096*TEMP+0.976}}   M=0.35  CJO=100p   VJ=1.0)
Dbody   20   3    DBODY
.MODEL   DBODY    D(IS=1E-12   N=1   RS=12.7m   TT=25n)
Ra      4    2    1.2 TC=0.0064
Rs      3    5    10m
Ls      5    30   0.5n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    85p
Rcgd    7    4    10meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.55   CJO=85p   VJ=0.120)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS NDS0610
